US04952571
Boron tribromide (1.55 ml) was added to a stirred solution of 4,5-dihydro-6-(5,6-dimethoxy-benzo[b]thien-2-yl)-5-methyl-3(2H)-pyridazinone (1.14 g) in dichloromethane (200 ml). After 2 hours the orange solution was cooled in ice, and water (40 ml) was added. The dichloromethane was then evaporated off under reduced pressure and the residual suspension was filtered to give 4,5-dihydro-6-(5,6-dihydroxy-benzo[b]thien-2-yl)-5-methyl-3(2H)-pyridazinone (0.97 g) as a yellow solid. Crystallisation from dichloromethane:methanol and diethylether gave 4,5-dihydro-6-(5,6-dihydroxybenzo[b]thien-2-yl)-5-methyl-3(2H)-pyridazinone. m.p. >270° C.

reactant | Boron tribromide | 1.55 ml | B(Br)(Br)Br | BBr3
reactant | 4,5-dihydro-6-(5,6-dimethoxy-benzo[b]thien-2-yl)-5-methyl-3(2H)-pyridazinone | 1.14 g | COC1=CC2=C(SC(=C2)C=2C(CC(NN2)=O)C)C=C1OC | C15H16N2O3S
reactant | water | 40 ml | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 4,5-dihydro-6-(5,6-dihydroxy-benzo[b]thien-2-yl)-5-methyl-3(2H)-pyridazinone | 0.97 g | OC1=CC2=C(SC(=C2)C=2C(CC(NN2)=O)C)C=C1O | C13H12N2O3S
